US07700595B2
A solution of 3-benzyl-8-trifluoromethyl-cinnolin-4-ol (1.6 g, 4.4 mmol) and POBr3 (2.5 g, 8.7 mmol) in DMF (30 ml) was heated to 75° C. After 1 hr, the reaction was cooled and poured into water. The aqueous layer was extracted with EtOAc which was dried (MgSO4) and concentrated to give a solid. The solid was triturated with MeOH and filtered to give 3-benzyl-4-bromo-8-trifluoromethyl-cinnoline (1.7 g). MS (ES) m/z 366.7.

reactant | 3-benzyl-8-trifluoromethyl-cinnolin-4-ol | 4.4 mmol, 1.6 g | C(C1=CC=CC=C1)C=1N=NC2=C(C=CC=C2C1O)C(F)(F)F | C16H11F3N2O
reactant | POBr3 | 8.7 mmol, 2.5 g | P(=O)(Br)(Br)Br | Br3OP
reactant | water | O | H2O
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 3-benzyl-4-bromo-8-trifluoromethyl-cinnoline | 1.7 g | C(C1=CC=CC=C1)C=1N=NC2=C(C=CC=C2C1Br)C(F)(F)F | C16H10BrF3N2
